US08871767B2
N-[5-(6-cyanoimidazo[2,1-f]pyridazin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide
An 8 mL vial is charged with N-[5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide (0.059 g, 0.15 mmol), copper cyanide (0.035 g, 0.3 mmol), and 4-methylmorpholine (0.43 mL). The mixture is stirred at 215° C. for 4 hr in the microwave, then cooled, diluted with Et2O, sat. aqueous NaHCO3 and the biphasic mixture is filtered. Organics are collected and aqueous layer is extracted twice more with Et2O. Organics are combined, dried, concentrated, and purified by prep plate TLC (1:1 Hex:EtOAc) to give the title compound (15 mg, 26% yield). LCMS m/z=388.5 [M+H]+, tR=2.56 min. (compound same as Example 173)

reactant | N-[5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide | 0.15 mmol, 0.059 g | ClC1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C(F)(F)F | C18H16ClF3N4O
reactant | copper cyanide | 0.3 mmol, 0.035 g | [Cu](C#N)C#N
reactant | 4-methylmorpholine | 0.43 mL | CN1CCOCC1 | C5H11NO
solvent | Et2O | CCOCC | C4H10O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-[5-(6-cyanoimidazo[2,1-f]pyridazin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide | 15 mg, 26% yield | C(#N)C1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C(F)(F)F | C19H16F3N5O
